US05470851
1-(3-Acetamidopropyl)-4-(diphenylmethylene)piperidine
680 mg of triethylamine was added to a solution of 1.0 g of 1-(3-aminopropyl)-4-(diphenylmethylene)-piperidine (prepared as described in Preparation 15') in 10 ml of methylene chloride at room temperature; a solution of 680 mg of acetyl chloride in 2 ml of methylene chloride was then added dropwise to it at -10° C., after which the mixture was stirred at the same temperature for 5 minutes. Methylene chloride was then added to the mixturem, which was then washed with water and with a saturated aqueous solution of sodium chloride, in that order, after which it was dried over anhydrous sodium sulfate. Evaporation of the solvent under reduced pressure gave 1.14 g (a quantitative yield) of the title compound as an oil.

reactant | triethylamine | 680 mg | C(C)N(CC)CC | C6H15N
reactant | 1-(3-aminopropyl)-4-(diphenylmethylene)-piperidine | 1.0 g | NCCCN1CCC(CC1)=C(C1=CC=CC=C1)C1=CC=CC=C1 | C21H26N2
reactant | acetyl chloride | 680 mg | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-Acetamidopropyl)-4-(diphenylmethylene)piperidine | quantitative yield | C(C)(=O)NCCCN1CCC(CC1)=C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H28N2O
